US06071903
As described for Reference Examples 181 and 182, a mixture of 1.41 g (3.455 mmol) of methyl 3-hydroxy-2-[-(4-methoxybenzenesulfonyl)-(2-amino-5-methylbenzyl)amino]propionate, 1.75 g (17.3 mmol) of triethylamine and 0.809 ml of trans-crotonyl chloride in 15 ml of CH2Cl2 was stirred overnight to give 1.52 g of methyl 2-{[2-(trans-crotonylamino)-5-methylbenzyl]-(4-methoxybenzenesulfonyl) amino}acrylate as a brown oil; Mass spectrum (ES) 459.4 (M+H).

reactant | methyl 3-hydroxy-2-[-(4-methoxybenzenesulfonyl)-(2-amino-5-methylbenzyl)amino]propionate | 3.455 mmol, 1.41 g | OCC(C(=O)OC)N(CC1=C(C=CC(=C1)C)N)S(=O)(=O)C1=CC=C(C=C1)OC | C19H24N2O6S
reactant | triethylamine | 17.3 mmol, 1.75 g | C(C)N(CC)CC | C6H15N
reactant | trans-crotonyl chloride | 0.809 ml | C(\C=C\C)(=O)Cl | C4H5ClO
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | methyl 2-{[2-(trans-crotonylamino)-5-methylbenzyl]-(4-methoxybenzenesulfonyl) amino}acrylate | 1.52 g | C(\C=C\C)(=O)NC1=C(CN(C(C(=O)OC)=C)S(=O)(=O)C2=CC=C(C=C2)OC)C=C(C=C1)C | C23H26N2O6S
